US04215044
A solution of methyllithium in diethyl ether (0.0275 mol, 15.3 ml of 1.8 M solution) was added dropwise to a solution of 3.04 g (0.03 mol) of diisopropylamine in 25 ml of diethyl ether. The reaction mixture was cooled to -70° C. and a solution of 7.12 g (0.025 mol) of 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one in 40 ml of tetrahydrofuran was added dropwise. The reaction mixture became dark red. Trimethylchlorosilane (11.4 ml; 0.09 mol) was added dropwise, after which the reaction mixture was warmed to room temperature, stirred for 3 hours and then filtered. The filtrate was evaporated to dryness and the residue was dissolved in 150 ml of trichlorofluoromethane. This solution was filtered to remove undissolved solid; the filtrate was evaporated to dryness under reduced pressure to give 8.52 g of 7-chloro-1-methyl-5-phenyl-2-trimethylsiloxy-1H-1,4-benzodiazepine as a light orange glass: 1H NMR (CCl3F) δ 0.0 ppm (s, 9H), 2.62 ppm (s, 3H), 5.76 ppm (s, 1H) and 6.4-7.6 ppm (m, 8H).

reactant | methyllithium | C[Li]
reactant | diisopropylamine | 0.03 mol, 3.04 g | C(C)(C)NC(C)C | C6H15N
reactant | 7-chloro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.025 mol, 7.12 g | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13ClN2O
reactant | Trimethylchlorosilane | 0.09 mol, 11.4 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 0.0275 mol, 1.8 M, 15.3 ml | C(C)OCC | C4H10O
product | 7-chloro-1-methyl-5-phenyl-2-trimethylsiloxy-1H-1,4-benzodiazepine | 8.52 g | ClC=1C=CC2=C(C(=NC=C(N2C)O[Si](C)(C)C)C2=CC=CC=C2)C1 | C19H21ClN2OSi
